US04424226
A mixture of 10.6 gm (0.05 mol) of 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one, 10.8 gm (0.055 mol) of 1-methyl-1,2,5,6-tetrahydroisonicotinic acid chloride hydrochloride, 20.7 gm (0.15 mol) of potassium carbonate, and 200 ml of anhydrous toluene was refluxed for 48 hours under thorough stirring. After the mixture cooled, it was stirred into 500 ml of ice water, the organic layer was separated off, and the aqueous layer was exhaustively extracted with ethyl acetate. The combined organic phases were dried over sodium sulphate and then concentrated by evaporation in vacuo. The residue was purified by column chromatography, first on silica gel with a particle size of from 0.1 to 0.4 mm, 1,2-dichloroethane/methanol (volume ratio of 9:1) being used as eluant, and secondly on silica gel with a particle size of from 0.032 to 0.063 mm, methylene chloride/methanol (volume ratio of 10:1) being used as eluant. The appropriate fractions were worked up in the usual way to produce colorless crystals, m.p.: 226°-227° C. (diisopropylether/methanol).

reactant | 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.05 mol, 10.6 gm | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | 1-methyl-1,2,5,6-tetrahydroisonicotinic acid chloride hydrochloride | 0.055 mol, 10.8 gm | Cl.CN1CC=C(C(=O)Cl)CC1
reactant | potassium carbonate | 0.15 mol, 20.7 gm | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | diisopropylether methanol | C(C)(C)OC(C)C.CO | InChI=1S/C6H14O.CH4O/c1-5(2)7-6(3)4;1-2/h5-6H,1-4H3;2H,1H3
